2197-01-13 07:36:00 Physician Resident Progress Note
Chief Complaint: Hypotension/HCT drop
   24 Hour Events:
 MULTI LUMEN - START [**2197-1-12**] 09:15 PM
 ARTERIAL LINE - START [**2197-1-12**] 09:15 PM
   [**2197-1-12**]:
   -NG tube placed, awaiting CT confirmation
   -Central line too far, pulled back, still too far, pulled back second
   time awaiting CXR
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   Aspirin
   Unknown;
   Last dose of Antibiotics:
   Ampicillin/Sulbactam (Unasyn) - [**2197-1-13**] 02:00 AM
   Infusions:
   Amiodarone - 0.5 mg/min
   Propofol - 30 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2197-1-13**] 06:38 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2197-1-13**] 07:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**98**] AM
   Tmax: 35.6
C (96
   Tcurrent: 35.6
C (96
   HR: 75 (64 - 81) bpm
   BP: 117/40(68) {112/31(56) - 138/62(89)} mmHg
   RR: 17 (12 - 18) insp/min
   SpO2: 94%
    Mixed Venous O2% Sat: 74 - 74
   Total In:
                                                                  4,809 mL
                                                                  2,323 mL
   PO:
   TF:
   IVF:
                                                                  3,459 mL
                                                                  1,973 mL
   Blood products:
                                                                  1,350 mL
                                                                    350 mL
   Total out:
                                                                    578 mL
                                                                    193 mL
   Urine:
                                                                     88 mL
                                                                    193 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,231 mL
                                                                  2,130 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: SIMV/PSV/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 103 (0 - 502) mL
   PS : 5 cmH2O
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI: 39
   PIP: 29 cmH2O
   SpO2: 94%
   ABG: 7.37/49/84.[**Numeric Identifier 117**]/26/1
   Ve: 6.4 L/min
   PaO2 / FiO2: 168
   Physical Examination
   General: Appears comfortable with mildly labored breathing, no
   accessory muscle use. Somnolent and not arousable to voice. Withdraws
   to noxious stimuli.
   HEENT: Sclera anicteric, MM dry, oropharynx clear
   Neck: supple, JVP difficult to assess given central line
   Lungs: Coarse rhonchorous BS bilaterally. No wheezes.
   CV: Tachycardic. Regular. Distant heart sounds and difficult to hear
   over coarse gurgling upper aiway sounds. Normal S1 + S2, no murmurs,
   rubs, gallops
   Abdomen:  soft, tender (pt with grimace), mildly distended, bowel
   sounds present, no rebound tenderness or guarding, no organomegaly,
   dressing dry and intact
   GU: no foley
   Ext: cool, trace edema [**Name Prefix (Prefixes) **] [**Last Name (Prefixes) **]/L, 1+ edema LUE, 1+ pulses, no clubbing,
   cyanosis
   Neuro: Mental status as above.
   Labs / Radiology
   126 K/uL
   10.5 g/dL
   125 mg/dL
   0.7 mg/dL
   26 mEq/L
   3.8 mEq/L
   15 mg/dL
   104 mEq/L
   135 mEq/L
   31.9 %
   5.3 K/uL
        [image002.jpg]
                             [**2197-1-12**]  10:36 PM
                             [**2197-1-13**]  01:17 AM
                             [**2197-1-13**]  03:00 AM
                             [**2197-1-13**]  05:05 AM
   WBC
   5.3
   Hct
   31.9
   Plt
   126
   Cr
   0.7
   TCO2
   30
   30
   29
   Glucose
   125
   Other labs: PT / PTT / INR:13.7/33.2/1.2, CK / CKMB / Troponin-T:131//,
   ALT / AST:[**8-1**], Alk Phos / T Bili:64/1.1, Differential-Neuts:88.9 %,
   Band:0.0 %, Lymph:8.1 %, Mono:2.5 %, Eos:0.4 %, Lactic Acid:1.3 mmol/L,
   Albumin:2.3 g/dL, LDH:165 IU/L, Ca++:7.0 mg/dL, Mg++:1.8 mg/dL, PO4:2.2
   mg/dL
   Assessment and Plan
 HYPOTENSION (NOT SHOCK)
 ANEMIA
 ACUTE ON CHRONIC DIASTOLIC CONGESTIVE HEART FAILURE
 RESPIRATORY FAILURE
 PAROXYSMAL ATRIAL FIBRILLATION
   Assessment and Plan: 84 year old female with CAD, dCHF, COPD,
   hypothyroidism, and [**Hospital **] transferred to [**Hospital Unit Name 4**] for post-op hypotension
   s/p iliocecectomy and sigmoid colectomy for colon adenoCA.
   .
   # Hypotension: Likely related to intraoperative blood loss and sedation
   since was not hypotensive pre-operatively. Would also consider intraop
   myocardial ischemia as possible etiology with decreased cardiac output,
   however EKG shows stable LBBB, with negative Scarbosa criteria.
   Developing sepsis also a consideration or intraoperative
   infection/perforation so will empirically treat for possible sepsis.
   She has not had leukocytosis or fevers but has been relatively
   hypothermic.
   - Transfusion goal of HCT>27 given h/o CAD
   - wean off dobutamine to avoid increased risk arrhythmia
   - trend biomarkers
 negative thus far
   - wean off propofol in preparation for SBT
   - wean off neosynephrine
   - maintain UOP>0.5cc/kg/hr
   - f/u blood and urine cx
   - Touch base with surgery team
   .
   # Anemia: Likely related to blood loss from surgery and known
   malignancy although estimated blood loss minimal and may also be partly
   secondary to hemodilution since received 3L IVF intraop.
   - check HCT Q8H, tx HCT<27 or active bleed
   .
   # Respiratory Failure: Patient remains intubated after procedure
   secondary to hemodynamic instability and not because of respiratory
   failure. Pt seemed to tolerate PEEP of 0 which seemed to suggest acute
   dCHF not a significant factor on respiratory status.
   - decrease FiO2 now, decrease sedation and change over to PSV as
   tolerated
   - wean off propofol
   - SBT today with goal for extubation
   .
   # Acute on chronic diastolic CHF: Pt with significant volume overload
   on CXR after 3L LR and 2 units PRBCs.
   -Since no significant affect on respiratory status, will hold off on
   diuresis for now given weaning neo today
   -Consider diuresis tonight or tomorrow if more stable and will discuss
   with surgery first
   .
   # PAF: Currently sinus with LBBB on PO amio at baseline. Has not been
   anticoagulated in past for unclear reasons, ? [**1-10**] GIB.
   - amio gtt at 0.5mg/hr since not taking POs
   .
   # Hypothyroidism: Continue levothyroxine
   .
   FEN: No IVF, replete potassium and other electrolytes, NPO for now,
   possible extubation today
   .
   Prophylaxis: pneumoboots; SC heparin when HCT stable
   .
   Access: RIJ, PIV, a line
   .
   Code:  Full
   .
   Communication: Patient, son [**Name (NI) 362**] [**Name (NI) 9069**] [**Telephone/Fax (1) 11338**] (called and left
   voicemail)
   .
   Disposition: pending clinical improvement
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2197-1-12**] 09:15 PM
   Arterial Line - [**2197-1-12**] 09:15 PM
   18 Gauge - [**2197-1-12**] 09:15 PM
   16 Gauge - [**2197-1-12**] 09:15 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2197-01-14 07:13:00 Physician Resident Progress Note
Chief Complaint: s/p partial bowel resection
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2197-1-13**] 02:23 PM
 EKG - At [**2197-1-14**] 04:45 AM
   -got 10 of IV lasix x 3
   -crit unchanged
   -extubated
   -off pressors
   -MAPS in high 90s
   This am she complained of chest pain and feeling like she couldn't
   breath. Given additional 20mg Lasix and morphine. ECG done but can't
   interpret for ischemia [**1-10**] LBBB. CEs flat. CXR pending.
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   History obtained from [**Hospital 19**] Medical recordsAspirin
   Unknown;
   Last dose of Antibiotics:
   Ampicillin/Sulbactam (Unasyn) - [**2197-1-13**] 02:00 AM
   Infusions:
   Amiodarone - 0.5 mg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2197-1-14**] 03:44 AM
   Furosemide (Lasix) - [**2197-1-14**] 05:00 AM
   Morphine Sulfate - [**2197-1-14**] 05:45 AM
   Pantoprazole (Protonix) - [**2197-1-14**] 06:45 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Respiratory: Dyspnea
   Genitourinary: Foley
   Flowsheet Data as of  [**2197-1-14**] 07:13 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**98**] AM
   Tmax: 37.2
C (99
   Tcurrent: 37
C (98.6
   HR: 92 (67 - 102) bpm
   BP: 128/48(73) {124/48(73) - 178/79(123)} mmHg
   RR: 15 (14 - 23) insp/min
   SpO2: 92%
   Heart rhythm: 1st AV (First degree AV Block)
    CVP: 5 (4 - 18)mmHg
   Total In:
                                                                  3,391 mL
                                                                    265 mL
   PO:
   TF:
   IVF:
                                                                  3,041 mL
                                                                    265 mL
   Blood products:
                                                                    350 mL
   Total out:
                                                                  2,914 mL
                                                                    920 mL
   Urine:
                                                                  2,914 mL
                                                                    920 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    477 mL
                                                                   -656 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 393 (348 - 393) mL
   PS : 5 cmH2O
   RR (Spontaneous): 18
   PEEP: 5 cmH2O
   FiO2: 70%
   PIP: 11 cmH2O
   SpO2: 92%
   ABG: 7.46/42/69/28/5
   Ve: 7.6 L/min
   PaO2 / FiO2: 99
   Physical Examination
   General Appearance: Thin, Anxious
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Crackles : , Rhonchorous: )
   Abdominal: Soft, No(t) Bowel sounds present
   Skin:  Not assessed
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   125 K/uL
   10.8 g/dL
   102 mg/dL
   0.9 mg/dL
   28 mEq/L
   4.0 mEq/L
   12 mg/dL
   100 mEq/L
   135 mEq/L
   32.6 %
   10.7 K/uL
        [image002.jpg]
                             [**2197-1-12**]  10:36 PM
                             [**2197-1-13**]  01:17 AM
                             [**2197-1-13**]  03:00 AM
                             [**2197-1-13**]  05:05 AM
                             [**2197-1-13**]  10:24 AM
                             [**2197-1-13**]  10:40 AM
                             [**2197-1-13**]  06:44 PM
                             [**2197-1-14**]  03:31 AM
                             [**2197-1-14**]  04:54 AM
   WBC
   5.3
   10.7
   Hct
   31.9
   32.8
   32.8
   32.6
   Plt
   126
   125
   Cr
   0.7
   0.9
   TropT
   0.06
   0.05
   0.05
   TCO2
   30
   30
   29
   25
   31
   Glucose
   125
   102
   Other labs: PT / PTT / INR:14.5/38.4/1.3, CK / CKMB /
   Troponin-T:120/3/0.05, ALT / AST:[**9-2**], Alk Phos / T Bili:73/0.6,
   Differential-Neuts:88.9 %, Band:0.0 %, Lymph:8.1 %, Mono:2.5 %, Eos:0.4
   %, Lactic Acid:0.7 mmol/L, Albumin:2.3 g/dL, LDH:160 IU/L, Ca++:7.4
   mg/dL, Mg++:2.0 mg/dL, PO4:2.8 mg/dL
   Fluid analysis / Other labs: .
   Imaging: . CXR with worsened atelectasis, worsened left sided effusion
   (wet read)
   ECG: . stable LBB
   Assessment and Plan
   84 year old female with CAD, dCHF, COPD, hypothyroidism, and [**Hospital **]
   transferred to [**Hospital Unit Name 4**] for post-op hypotension s/p iliocecectomy and
   sigmoid colectomy for colon adenoCA.
 HYPOXEMIA
   Extubated but on face mask 70% FiO2 and with crackles. On CXR,
   pulmonary edema decreased, increased atelectasis. Will f/u final read.
   Low threshold to treat with Abx for HAP. Continue monitor volume. IS
   10x/hr
 HYPOTENSION (NOT SHOCK)
   CEs flat. Off pressors. BP now stable to elevated. Hematocrit stable.
   -continue to monitor vitals and UOP
   -no IVF boluses and have had to diurese
 HEART FAILURE (CHF), DIASTOLIC, ACUTE ON CHRONIC
   -Continue to monitor volume status and diurese prn
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
   Hematorcrit stable.
   -will monitor
   -transfuse for HCT<27
 ATRIAL FIBRILLATION (AFIB)
   - amio gtt at 0.5mg/hr since not taking POs
 HYPOTHYROIDISM
   -continue levothyroxine
 .H/O CANCER (MALIGNANT NEOPLASM), COLORECTAL (COLON CANCER)
   s/p excision, biopsy pending
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2197-1-12**] 09:15 PM
   Arterial Line - [**2197-1-12**] 09:15 PM
   18 Gauge - [**2197-1-12**] 09:15 PM
   16 Gauge - [**2197-1-12**] 09:15 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU